US06211199B1
46.1 Synthesis of 1-(3,4,5-trimethoxybenzoyl)-3-(2-(4-(1-(2-methylsulfonylethyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-(3,4-difluorophenyl) Pyrrolidine
Combine 1-(3,4,5-trimethoxybenzoyl)-3-(2-(4-(1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-(3,4-difluorophenyl)pyrrolidine (1.51 g, 2.44 mmol) and tetrahydrofuran (20 mL). Cool to −78° C. using a dry-ice/acetone bath. Add a solution of s-butyl lithium (3.94 mL, 1.3 M in hexane, 5.12 mmol). After 30 minutes, add a solution of 2-methylsulfonylethyl methanesulfonate (0.60 g, 2.93 mmol). Allow to warm to ambient temperature and then heat to reflux. After 48 hours, cool to ambient temperature and add water. Separate the layers. Extract the aqueous layer four times with ethyl acetate. Combine the organic layers, dry over Na2SO4, filter, and evaporate in vacuo to give a residue. Chromatograph the residue on silica gel eluting with 5/0.5/94.5 methanol/concentrated ammonium hydroxide/dichloromethane to give the title compound: Rf=0.54 (silica gel, 5/0.5/94.5 methanol/concentrated ammonium hydroxide/dichloromethane).

reactant | 1-(3,4,5-trimethoxybenzoyl)-3-(2-(4-(1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-(3,4-difluorophenyl)pyrrolidine | 2.44 mmol, 1.51 g | COC=1C=C(C(=O)N2CC(CC2)(C2=CC(=C(C=C2)F)F)CCN2CCC(CC2)NC2=NC3=C(N2)C=CC=C3)C=C(C1OC)OC | C34H39F2N5O4
reactant | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
reactant | s-butyl lithium | 5.12 mmol, 1.3 M, 3.94 mL | C(C)(CC)[Li]
reactant | 2-methylsulfonylethyl methanesulfonate | 2.93 mmol, 0.60 g | CS(=O)(=O)OCCS(=O)(=O)C | C4H10O5S2
solvent | methanol | CO | CH4O
solvent | water | O | H2O
product | 1-(3,4,5-trimethoxybenzoyl)-3-(2-(4-(1-(2-methylsulfonylethyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-(3,4-difluorophenyl) Pyrrolidine | COC=1C=C(C(=O)N2CC(CC2)(C2=CC(=C(C=C2)F)F)CCN2CCC(CC2)NC2=NC3=C(N2CCS(=O)(=O)C)C=CC=C3)C=C(C1OC)OC | C37H45F2N5O6S
